US04260755
3-(Chloromethyl)-6-(3-fluorophenyl)-1,2,4-triazolo[4,3-b]pyridazine
As for Example 2, 6-(3-fluorophenyl)-3-hydrazinopyridazine (prepared in a manner similar to that described in Example 1) is reacted with chloroacetyl chloride to give the product of the Example.

reactant | 6-(3-fluorophenyl)-3-hydrazinopyridazine | FC=1C=C(C=CC1)C1=CC=C(N=N1)NN | C10H9FN4
reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
product | 3-(Chloromethyl)-6-(3-fluorophenyl)-1,2,4-triazolo[4,3-b]pyridazine | ClCC1=NN=C2N1N=C(C=C2)C2=CC(=CC=C2)F | C12H8ClFN4
